US04051254
3-methyl-4-(chloroacetamido)phenyl N-methylcarbamate
The title product was prepared by reacting 3-methyl-4-aminophenyl N-methylcarbamate (2.5g., 0.0138 mole) with chloroacetic anhydride (2.85g., 0.0166 mole) in benzene giving 3.1g. of white solid (m.p. 169.5°-170.5° C.).

reactant | 3-methyl-4-aminophenyl N-methylcarbamate | 0.0138 mole, 2.5g | CNC(OC1=CC(=C(C=C1)N)C)=O | C9H12N2O2
reactant | chloroacetic anhydride | 0.0166 mole, 2.85g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
solvent | benzene | 3.1g | C1=CC=CC=C1 | C6H6
product | 3-methyl-4-(chloroacetamido)phenyl N-methylcarbamate | CNC(OC1=CC(=C(C=C1)NC(CCl)=O)C)=O | C11H13ClN2O3
